US07985862B2
(Step 1) A mixture of 3-bromo-5-chlorobenzonitrile (4.0 g), sodium methanethiolate (1.42 g), Pd2(dba)3 (84 mg), Xantphos (106 mg) and N,N-diisopropylethylamine (4.78 g) was stirred in toluene (100 ml) at 90° C. for 9 hr. The reaction mixture was treated with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:20) to give 3-chloro-5-(methylsulfanyl)benzonitrile (2.6 g) as a solid.

reactant | 3-bromo-5-chlorobenzonitrile | 4.0 g | BrC=1C=C(C#N)C=C(C1)Cl | C7H3BrClN
reactant | sodium methanethiolate | 1.42 g | C[S-].[Na+]
reactant | N,N-diisopropylethylamine | 4.78 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 84 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 106 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 3-chloro-5-(methylsulfanyl)benzonitrile | 2.6 g | ClC=1C=C(C#N)C=C(C1)SC | C8H6ClNS
